US07989457B2
Step A. 2-Chloro-5-(1-methoxymethylene-heptyl)-pyridine
(Methoxymethyl)triphenylphosphinium chloride (6.5 g, 20.0 mmol) is suspended in anhydrous toluene (50 mL) and potassium tert-butoxide (2.24 g, 20.0 mmol) carefully added. The solution is allowed to cool and stir at room temperature for 1 h. 1-(6-Chloro-pyridin-3-yl)-heptan-1-one (3.0 g, 13.3 mmol) is then dissolved into anhydrous toluene (50 mL) and added to the reaction mixture by syringe. The reaction is allowed to stir at room temperature for several hours and is monitored by HPLC. Upon complete consumption of starting material, the reaction is carefully quenched with saturated ammonium chloride solution, extracted with diethyl ether, washed, dried, and concentrated. The 2-chloro-5-(1-methoxymethylene-heptyl)-pyridine is purified using flash column chromatography.

reactant | potassium tert-butoxide | 20.0 mmol, 2.24 g | CC(C)([O-])C.[K+]
reactant | 1-(6-Chloro-pyridin-3-yl)-heptan-1-one | 13.3 mmol, 3.0 g | ClC1=CC=C(C=N1)C(CCCCCC)=O | C12H16ClNO
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-5-(1-methoxymethylene-heptyl)-pyridine | ClC1=NC=C(C=C1)C(CCCCCC)=COC | C14H20ClNO
